US05595686
Preparation of trans, trans-(4-(4-(4-pentenyl)-4-silacyclohexyl)cyclohexyl) 4-chloro-2-fluorobenzoate
The general procedure of Example 31 was repeated using 4-chloro-2-fluorobenzoic acid and 4-(4-phenyl-(3-pentenyl)-4-silacyclohexyl)cyclohexanol, thereby obtaining the intended product.

reactant | 4-chloro-2-fluorobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1)F | C7H4ClFO2
reactant | 4-(4-phenyl-(3-pentenyl)-4-silacyclohexyl)cyclohexanol | C1(=CC=CC=C1)[SiH]1CCC(CC1)(C1CCC(CC1)O)CCC=CC | C22H34OSi
product | trans-(4-(4-(4-pentenyl)-4-silacyclohexyl)cyclohexyl) 4-chloro-2-fluorobenzoate | ClC1=CC(=C(C(=O)O[C@@H]2CC[C@H](CC2)C2CC[SiH](CC2)CCCC=C)C=C1)F | C23H32ClFO2Si
